US08609653B2
To a solution of (S)-methyl 2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (660 mg, 1.328 mmol) in tert-butyl acetate (15 mL, 111 mmol) was added dropwise in ˜5 min perchloric acid (0.456 mL, 5.31 mmol) (70% reagent) and the mixture was stirred at RT for 1 h. The mixture was carefully quenched with saturated NaHCO3/water and extracted with EtOAc. The organic phase dried (Na2SO4), concentrated, and purified by column chromatography to provide (S)-methyl 2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate (551 mg, 1.032 mmol, 78% yield) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.27 (s, 9 H), 2.74 (s, 3 H), 3.70 (s, 3 H), 5.40 (d, J=2.15 Hz, 2 H), 5.76 (s, 1 H), 6.36 (d, J=3.51 Hz, 1 H), 6.92-7.17 (m, 4 H); LCMS (m/z) ES+=529 (M+1).

reactant | (S)-methyl 2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 1.328 mmol, 660 mg | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)[C@@H](C(=O)OC)O)C)C=CC1F | C18H15F2IN2O3
reactant | tert-butyl acetate | 111 mmol, 15 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | 5.31 mmol, 0.456 mL | Cl(=O)(=O)(=O)O | ClHO4
product | (S)-methyl 2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | 1.032 mmol, 551 mg, 78% yield | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)F)I | C22H23F2IN2O3
